US08217032B2
7,9-Difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-thia-chrysen-2-ol hydrochloride salt
Dissolve methanesulfonic acid 7,9-difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-thia-chrysen-2-yl ester (5.2 g, 9.0 mmol) in methanol (150 mL). Add potassium hydroxide (5.0 g, 90 mmol) and stir at room temperature. After 4 hours pour into saturated aqueous ammonium chloride and extract with methylene chloride. Dry over sodium sulfate, filter and concentrate. Dissolve residue in methylene chloride (90 mL) and add 2M HCl in ether (9 mL, 18 mmol). Concentrate in vacuo to yield 4.8 g (99%) of the title compound. LCMS Rt (0.01% heptafluorobutyric acid:1.0% isopropylalcohol:water is mobile phase A and 0.01% heptafluorobutyric acid:1.0% isopropylalcohol:acetonitrile is mobile phase B; gradient method 15 to 95% B, Purity@254 nm)=3.21 min (100%); mass spectrum (ion spray): m/z=504.3 (M+H). Chiral HPLC: 87%.

reactant | methanesulfonic acid 7,9-difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-thia-chrysen-2-yl ester | 9.0 mmol, 5.2 g | FC1=C2SC(C3=C4C=CC(=CC4=CC=C3C2=CC(=C1)F)OS(=O)(=O)C)C1=CC=C(C=C1)OCCN1CCCCC1 | C31H29F2NO4S2
reactant | potassium hydroxide | 90 mmol, 5.0 g | [OH-].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | HCl | 2M | Cl | ClH
reactant | ether | 18 mmol, 9 mL | CCOCC | C4H10O
solvent | methanol | 150 mL | CO | CH4O
solvent | methylene chloride | 90 mL | C(Cl)Cl | CH2Cl2
product | 7,9-Difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-thia-chrysen-2-ol hydrochloride salt | 4.8 g, 99% | Cl.FC1=C2SC(C3=C4C=CC(=CC4=CC=C3C2=CC(=C1)F)O)C1=CC=C(C=C1)OCCN1CCCCC1 | InChI=1S/C30H27F2NO2S.ClH/c31-21-17-26-25-10-6-20-16-22(34)7-11-24(20)28(25)29(36-30(26)27(32)18-21)19-4-8-23(9-5-19)35-15-14-33-12-2-1-3-13-33;/h4-11,16-18,29,34H,1-3,12-15H2;1H
